US06444685B1
1-(4-{4-[(2S)-2-Hydroxy-3-(2-oxo-2,3-dihydro-1H-benzoimidazol-4-yloxy)-propylamino]-piperidin-1-yl}-benzenesulfonyl)-imidazolidine-2,4-dione
Acetic acid (0.14 mL, 2.38 mmol) was added dropwise into a mixture of 4-{[(2S)-3-amino-2-hydroxypropyl]oxy}-1,3-dihydro-2H-benzimidazol-2-one (265 mg, 1.19 mmol), 1-[[4-(4-oxo-1-piperidinyl)phenyl]sulfonyl]-2,4-imidazolidinedione (400 mg, 1.19 mmol) and N,N-dimethylformamide (5 mL). The mixture was stirred for 20 minutes and then, sodium triacetoxyborohydride (303 mg, 1.43 mmol) was added, and the new mixture was stirred at room temperature for 24 hours. The volatiles were removed in vacuo and the residue was purified by flash chromatography (dichloromethane/methyl alcohol 3/1) to produce a brown solid (256 mg, 40% yield): mp 230° C. (decomposed); 1H NMR (400 MHz, DMSO-d6): δ 1.52-1.63 (m, 2H), 2.04-2.15 (m, 2H), 2.48 (m, 2H), 2.9-3.0 (m, 2H), 3.13-3.15 (m, 1H), 3.2-3.4 (m, 3H), 4.0-4.1 (m, 5H), 4.42 (s, 2H), 6.6-6.63 (m, 2H), 6.8-6.85 (m, 1H), 7.03-7.05 (m, 2H), 7.78-7.8 (m, 2H), 10.6 (s, 1H), 10.7 (s, 1H); MS m/e 543 (M−H)+; Analysis for: C24H28N6O7S Calc'd: C, 45.24; H, 5.38; N, 12.88 Found: C, 45.88; H, 5.36; N, 13.88.

reactant | Acetic acid | 2.38 mmol, 0.14 mL | C(C)(=O)O | C2H4O2
reactant | 4-{[(2S)-3-amino-2-hydroxypropyl]oxy}-1,3-dihydro-2H-benzimidazol-2-one | 1.19 mmol, 265 mg | NC[C@@H](COC1=CC=CC=2NC(NC21)=O)O | C10H13N3O3
reactant | 1-[[4-(4-oxo-1-piperidinyl)phenyl]sulfonyl]-2,4-imidazolidinedione | 1.19 mmol, 400 mg | O=C1CCN(CC1)C1=CC=C(C=C1)S(=O)(=O)N1C(NC(C1)=O)=O | C14H15N3O5S
reactant | sodium triacetoxyborohydride | 1.43 mmol, 303 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 1-(4-{4-[(2S)-2-Hydroxy-3-(2-oxo-2,3-dihydro-1H-benzoimidazol-4-yloxy)-propylamino]-piperidin-1-yl}-benzenesulfonyl)-imidazolidine-2,4-dione | 256 mg, 40% yield | O[C@@H](CNC1CCN(CC1)C1=CC=C(C=C1)S(=O)(=O)N1C(NC(C1)=O)=O)COC1=CC=CC=2NC(NC21)=O | C24H28N6O7S
